US03991106
Step B: Preparation of 4-Acetoxy-1-bromo-5-(4-fluorophenoxy)- 2-pentyne
Phosphorus tribromide (10.6 g., 0.039 mole) is added dropwise during 15 minutes to a solution of 4-acetoxy- 5-(4-fluorophenoxy)-2-pentyn-1-ol (25.1 g., 0.1 mole) in ether (80 ml.). The resulting solution is stirred at room temperature for 1 hour and then heated at reflux for 30 minutes. The solution is poured into ice water (100 ml.). The organic layer is separated, washed with water, and dried over sodium sulfate. The solvent is evaporated under reduced pressure to leave the title compound as a light yellow oil.

reactant | Phosphorus tribromide | 0.039 mole, 10.6 g | P(Br)(Br)Br | Br3P
reactant | 4-acetoxy- 5-(4-fluorophenoxy)-2-pentyn-1-ol | 0.1 mole, 25.1 g | C(C)(=O)OC(C#CCO)COC1=CC=C(C=C1)F | C13H13FO4
solvent | ether | 80 ml | CCOCC | C4H10O
product | 4-Acetoxy-1-bromo-5-(4-fluorophenoxy)- 2-pentyne | C(C)(=O)OC(C#CCBr)COC1=CC=C(C=C1)F | C13H12BrFO3
